US07129242B2
4-(4-Chlorophenyl)pyrimidine-2-thiol
To a solution of (2E)-3-(dimethylamino)-1-(4-chlorophenyl)prop-2-en-1-one (1.5 g, 7.2 mmol) in ethanol (25 ml) was added thiourea (0.60 g, 7.9 mmol) and potassium carbonate (K2CO3) (1.19 g. 8.63 mmol). The resulting suspension was heated to 85° C. for 12 hours then cooled to ambient temperature. The resulting solid was collected and thoroughly washed with water and hexanes to provide a beige solid: EI-MS (m/z) 222 [M+1]+.

reactant | (2E)-3-(dimethylamino)-1-(4-chlorophenyl)prop-2-en-1-one | 7.2 mmol, 1.5 g | CN(/C=C/C(=O)C1=CC=C(C=C1)Cl)C | C11H12ClNO
reactant | thiourea | 7.9 mmol, 0.60 g | NC(=S)N | CH4N2S
reactant | potassium carbonate | 8.63 mmol, 1.19 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-(4-Chlorophenyl)pyrimidine-2-thiol | ClC1=CC=C(C=C1)C1=NC(=NC=C1)S | C10H7ClN2S
